US07157447B2
1-(2-(Aminomethyl)-5-fluorophenyl)piperidin-2-one hydrochloride salt.
To a stirred solution of intermediate 112, 4-fluoro-2-(2-oxopiperidin-1-yl)benzonitrile (150 mg, 0.69 mmol) in H2O (10 mL) was added ethanol (10 mL) 10% palladium on charcoal (50 mg) and 1N HCl (2.1 mL, 20.6 mmol). The reaction was shaken in a Parr system under H2 (40 psi) for 1 h. Then the Pd/C catalyst was removed by filtration on Celite and the filtrate was concentrated in vacuo to yield a solid. Toluene (2×50 mL) was added to the solid and the solution was evaporated in vacuo. LCMS (M+H)+ m/z 170.

reactant | 4-fluoro-2-(2-oxopiperidin-1-yl)benzonitrile | 0.69 mmol, 150 mg | FC1=CC(=C(C#N)C=C1)N1C(CCCC1)=O | C12H11FN2O
reactant | ethanol | 10 mL, 50 mg | C(C)O | C2H6O
reactant | HCl | 20.6 mmol, 1N, 2.1 mL | Cl | ClH
reactant | Toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 10 mL | O | H2O
product | 1-(2-(Aminomethyl)-5-fluorophenyl)piperidin-2-one hydrochloride salt | Cl.NCC1=C(C=C(C=C1)F)N1C(CCCC1)=O | InChI=1S/C12H15FN2O.ClH/c13-10-5-4-9(8-14)11(7-10)15-6-2-1-3-12(15)16;/h4-5,7H,1-3,6,8,14H2;1H
